US07420001B2
A solution of 2-hydroxymethyl-4-methoxy-3-methyl benzofuran-5-carbonitrile (0.17 g; 0.76 mmol) in dichloromethane (5 mL) was cooled to 0° C. To this solution was added, successively, neat phosphorus tribromide (0.11 mL; 0.32 g; 1.2 mmol; 1.5 eq) and pyridine (2 drops). The ice bath was removed and the reaction was allowed to come to room temperature overnight with stirring. After quenching with ice, the crude product was isolated by ethyl acetate extraction. The organic layer was washed with saturated sodium bicarbonate, then dried over magnesium sulfate, filtered and concentrated in vacuo to give 2-bromomethyl-4-methoxy-3-methyl benzofuran-5-carbonitrile (0.20 g; 95% yield).

reactant | 2-hydroxymethyl-4-methoxy-3-methyl benzofuran-5-carbonitrile | 0.76 mmol, 0.17 g | OCC=1OC2=C(C1C)C(=C(C=C2)C#N)OC | C12H11NO3
reactant | phosphorus tribromide | 1.2 mmol, 0.11 mL, 0.32 g, 1.5 eq | P(Br)(Br)Br | Br3P
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
catalyst | pyridine | 2 drops | N1=CC=CC=C1 | C5H5N
product | 2-bromomethyl-4-methoxy-3-methyl benzofuran-5-carbonitrile | 0.20 g, 95% yield | BrCC=1OC2=C(C1C)C(=C(C=C2)C#N)OC | C12H10BrNO2
